US05888940
4-Chloro-6-fluoro-7-isocyanato-2-methylbenzothiazole
A solution of 3.2 g (15 mmol) of 7-amino-4-chloro-6-fluoro-2-methylbenzothiazole and 15 g (76 mmol) of diphosgene in 150 ml of toluene was refluxed for 6 hours. The crude product obtained after evaporation was converted directly into active ingredient I.15.

reactant | 7-amino-4-chloro-6-fluoro-2-methylbenzothiazole | 15 mmol, 3.2 g | NC1=C(C=C(C=2N=C(SC21)C)Cl)F | C8H6ClFN2S
reactant | diphosgene | 76 mmol, 15 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-6-fluoro-7-isocyanato-2-methylbenzothiazole | ClC1=CC(=C(C2=C1N=C(S2)C)N=C=O)F | C9H4ClFN2OS
